US08058261B2
1-[5-O-(tert-Butyldimethylsilyl)-3-C-ethynyl-β-D-ribofuranosyl]cytosine (Compound 1)
tert-Butyldimethylsilylchloride (12.5 g, 82.5 mmol) was gradually added under ice-cooling to a solution of 3′-ethynylcytidine (hereinafter referred to as ECyd) (20 g, 75 mmol) and imidazole (12.8 g, 188 mmol) in N,N-dimethylformamide (hereinafter referred to as DMF) (75 mL), and the mixture was stirred for 5 hours at room temperature. After completion of reaction, the solvent was evaporated under reduced pressure, and ethyl acetate was added to the residue. The mixture was washed with saturated aqueous sodium hydrogen carbonate (100 mL) and saturated brine (100 mL) and dried with magnesium sulfate. Magnesium sulfate was removed through filtration. The filtrate was stirred at room temperature, and precipitated crystals were collected through filtration, to thereby yield Compound 1 (11.5 g, 52%).

reactant | tert-Butyldimethylsilylchloride | 82.5 mmol, 12.5 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 3′-ethynylcytidine | C(#C)[C@@]1([C@H]([C@@H](O[C@@H]1CO)N1C(=O)N=C(N)C=C1)O)O | C11H13N3O5
reactant | imidazole | 188 mmol, 12.8 g | N1C=NC=C1 | C3H4N2
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-[5-O-(tert-Butyldimethylsilyl)-3-C-ethynyl-β-D-ribofuranosyl]cytosine | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@]([C@H]([C@@H](O1)N1C(=O)N=C(N)C=C1)O)(O)C#C | C17H27N3O5Si
